US04777179
2-(3-Methyl-2-thienyl)-1,3-dioxolane
3-Methyl-2-thiophenecarboxaldehyde (12 g), 1,2-ethanediol (20 ml) and a trace of toluene-p-sulphonic acid were heated at reflux in toluene (250 ml) under Dean and Stark conditions for 4 h. The reaction mixture was cooled and washed with 5% aqueous sodium carbonate solution and water. The toluene solution was evaporated to give an oil which was distilled to give the title compound as a pale yellow oil (14.5 g) b.p. 95°/0.1 mm.

reactant | 3-Methyl-2-thiophenecarboxaldehyde | 12 g | CC1=C(SC=C1)C=O | C6H6OS
reactant | 1,2-ethanediol | 20 ml | C(CO)O | C2H6O2
reactant | toluene-p-sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-Methyl-2-thienyl)-1,3-dioxolane | 14.5 g | CC1=C(SC=C1)C1OCCO1 | C8H10O2S
